Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain  
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with no GERD presents with 3 weeks ___ non-exertional chest 
pain. He has never had this pain before and was in his usual 
state of health. He describes the pain as lastin minutes, on the 
left side, with some fatigue and lightheadedness. Sometimes he 
feels it in the arm. No obvious triggers and not necessarily 
assoc with exercise as he worked out at the GYM without these 
symptoms recently. He denies f/c, cough, SOB, swelling , PND, 
leg pain. He has not traveled anywhere.  
.  
He was evalauted in ___. Per report, CK 396 MB 6. 
Transferred to ___ for further evaluation  
.  
In the ED, AVSS, CK 331 with MB 6 and trop negative. EKG and CXR 
unremarkable except for inferior Q waves but no priors. He was 
given ASA and morphine.  
.  
On arrival to the floor, he is asymptomatic. 
.
 
Past Medical History:
GERD  
Herniated Disc  
 
Social History:
___
Family History:
Brother had hypotension.
Mother had CAD.
 
Physical Exam:
VS - T 96, BP 150/79, HR 52, RR 16, 99%RA  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: Supple with flat JVP.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No dermatitis, ulcers, scars, or xanthomas. 
 
Pertinent Results:
Admit Labs:
___ 04:00PM BLOOD WBC-5.3 RBC-4.48* Hgb-13.5* Hct-39.0* 
MCV-87 MCH-30.1 MCHC-34.6 RDW-13.2 Plt ___
___ 04:00PM BLOOD Neuts-55.6 ___ Monos-6.0 Eos-1.6 
Baso-0.3
___ 04:00PM BLOOD CK(CPK)-331*
___ 12:53AM BLOOD CK(CPK)-265*
___ 06:50AM BLOOD CK(CPK)-251*
___ 04:00PM BLOOD CK-MB-6
___ 04:00PM BLOOD cTropnT-<0.01
___ 12:53AM BLOOD CK-MB-6 cTropnT-<0.01
___ 06:50AM BLOOD CK-MB-6 cTropnT-<0.01
.
Excercise stress ___: Prelim
___ yo man was referred to evaluate an atypical chest 
discomfort. The patient completed 10.5 minutes of ___ 
protocol 
representing an excellent functional exercise tolerance; ~ 11 
METS. The 
exercise test was stopped at the patient's request secondary to 
fatigue. 
No chest, back, neck or arm discomforts were reported by the 
patient 
during the procedure. At peak exercise, and in the presence of 
voltage 
meeting criteria for LVH, 1.0 mm upsloping ST segment depression 
was 
noted inferolaterllly. The rhythm was sinus with frequent atrial 

irritability noted throughout exercise and early recovery; 
frequent 
isolated APDs, occasional atrial couplets and rare non-conducted 
APDs. 
The hemodynamic response to exercise was appropriate.   
IMPRESSION: Excellent functional exercise tolerance. No anginal 
symptoms or significant ST segment changes. Frequent atrial 
irritability 
noted during the procedure. Nuclear report sent separately. 
.
Stress MIBI ___:
The image quality is mildly degraded by motion. Mild soft tissue 
attenuation. 
Left ventricular cavity size is mildly enlarged EDV = 119ml. 
Resting and stress perfusion images reveal a mild fixed anterior 
wall perfusion deficit believed secondary to motion artifact. 
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 57 %. 
IMPRESSION: 
1. Probably normal left ventricular perfusion in the setting of 
motion artifact.
2. Mild left ventricular dilitation LV EDV = 119ml, EF = 57 %. 

 
Brief Hospital Course:
___ year old gentleman with no significant PMH who presents with 
3 weeks intermittent brief chest pain. 
.  
# Chest Pain: Only risk factor for CAD is sex/age. Otherwise 
healthy. Ruled out for MI with negative cardiac enzymes x 3.  
CXR unremarkable per OSH report and no infectious symptoms.  
Telemetry did not show any significant arrythmia.  Good 
functional status and asymptomatic during stress test.  Prelim 
read of MIBI is complicated by artifact.  Continue baby ASA.  
Discharged on prilosec. Follow up appointment with PCP was 
attempted but his office is closed.  Patient was asked to set up 
a follow up appointment within one week of discharge.  

 
Medications on Admission:
ASA 81mg daily  
Prilosec  
MVI  
Fish oil BID (unclear of dose)  
Mg, unclear of dosage  
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
3. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Non cardiac chest pain
.
Secondary:
GERD

 
Discharge Condition:
Asyptomatic and hemodynamically stable.

 
Discharge Instructions:
You were admitted to ___ with 
chest pain.  You did not have a heart attack.  Your symptoms 
resolved prior to discharge.
.
Please take all the medications as written.
.
Please keep all the follow up appointments.
.
If you develop chest pain, shortness of breath or any other 
concerning symptoms, please call your primary care doctor or 
come to the Emergency Department.
 
Followup Instructions:
___